US04173478
Preparation of N-(benzotriazol-5-yl)-1-hydroxy-4-(2-methylsulphonyl-4-nitrophenylazo)naphth-2-amide (Dye 15)
2-Methylsulphonyl-4-nitroaniline (0.66 g) was diazotized in a mixture of 3:1 v/v glacial acetic acid:propionic acid (40 ml) by adding sodium nitrite (0.21 g) in concentrated sulphuric acid (2.5 ml) dropwise a 0° C. The resulting diazonium solution was added to N-(benzotriazol-5-yl)naphth-2-amide (1.0 g) dissolved in 3:1 v/v glacial acetic acid:propionic acid (100 ml) containing ammonium acetate (16.2 g) and the mixture was stirred at room temperature for one hour. The mixture was poured onto ice and the product was filtered and crystallized in aqueous pyridine. Yield 1.16 g, m.p. 260° decomp., λmax (methanol)=577 nm.

reactant | 2-Methylsulphonyl-4-nitroaniline | 0.66 g | CS(=O)(=O)C1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | propionic acid | 40 ml | C(CC)(=O)O | C3H6O2
reactant | sodium nitrite | 0.21 g | N(=O)[O-].[Na+]
reactant | N-(benzotriazol-5-yl)naphth-2-amide | 1.0 g | N1N=NC2=C1C=CC(=C2)NC(=O)C2=CC1=CC=CC=C1C=C2 | C17H12N4O
reactant | propionic acid | 100 ml | C(CC)(=O)O | C3H6O2
reactant | ammonium acetate | 16.2 g | C(C)(=O)[O-].[NH4+]
solvent | sulphuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(benzotriazol-5-yl)-1-hydroxy-4-(2-methylsulphonyl-4-nitrophenylazo)naphth-2-amide | N1N=NC2=C1C=CC(=C2)NC(=O)C2=C(C1=CC=CC=C1C(=C2)N=NC2=C(C=C(C=C2)[N+](=O)[O-])S(=O)(=O)C)O | C24H17N7O6S
